US07166648B2
3,3-Diacetyl-1,5-bis(methylsulfonyl)-pentane
6 g of 2,4-pentandione and 3 drops of triethyl amine were mixed and 7 g of methyl vinyl sulfone was added dropwise at room temperature. After stirring at 60° C. for 7 hours, 5 drops of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were added and the mixture was stirred at room temperature for 12 hours. The mixture was stirred with 25 ml of ethanol and neutralized after a white solid was precipitated. The mixture was poured into 200 ml of water and ice, and was kept in the refrigerator overnight. The solvent was filtered off, dried and recrystallized from 500 ml of ethanol. 2.9 g of white, long needles of the subject compound was obtained (melting point: 162° C.; purity: >99%; colorless).

reactant | 2,4-pentandione | 6 g | CC(CC(C)=O)=O | C5H8O2
reactant | methyl vinyl sulfone | 7 g | C(=C)S(=O)(=O)C | C3H6O2S
catalyst | triethyl amine | 3 drops | C(C)N(CC)CC | C6H15N
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 5 drops | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,3-Diacetyl-1,5-bis(methylsulfonyl)-pentane | C(C)(=O)C(CCS(=O)(=O)C)(CCS(=O)(=O)C)C(C)=O | C11H20O6S2
